US09326987B2
6-Bromo-4-(5-methyl-1,3,4-oxadiazol-2-yl)-1-[(4-methylphenyl)sulfonyl]-1H-indazole
A stirred mixture of 6-Bromo-1-[(4-methylphenyl)sulphonyl]-4-(1H-tetrazol-5-yl)-1H-indazole (300 mg, 0.615 mmol) and acetyl chloride (0.722 ml, 10.15 mmol) in toluene (10 ml) were heated under microwave irradiation at 130° C. for 20 mins. The reaction mixture was heated for a further 20 mins at 130° C. then evaporated to dryness. The resultant yellow solid was treated with methanol (10 ml), to give a beige solid and supernatant. The supernatant was pipetted off, the process repeated twice and the resultant solid dried under vacuum to give the title compound as a beige solid (75 mg).

reactant | 6-Bromo-1-[(4-methylphenyl)sulphonyl]-4-(1H-tetrazol-5-yl)-1H-indazole | 0.615 mmol, 300 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=NN=NN1 | C15H11BrN6O2S
reactant | acetyl chloride | 10.15 mmol, 0.722 ml | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-4-(5-methyl-1,3,4-oxadiazol-2-yl)-1-[(4-methylphenyl)sulfonyl]-1H-indazole | 75 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1OC(=NN1)C | C17H13BrN4O3S
